US08486940B2
(S)-3-(1H-benzo[d]imidazol-6-yl)-4-phenyloxazolidin-2-one
The (S)-3-(3,4-diaminophenyl)-4-phenyloxazolidin-2-one was dissolved in 2.5 mL of 5N aqueous hydrochloric acid and 0.25 mL of formic acid was added to the solution. The reaction was stirred at reflux for 1 h before the reaction was cooled down to 0° C. and the reaction mixture was neutralized with buffer (pH7) and conc. ammonia. The aqueous layer was than extracted by means of 25 mL dichloromethane three times. The organic layers were combined, dried, filtered and the solvent was removed under reduced pressure. The final product was purified by means of FPLC using chloroform-methanol gradient (0→10%). The product elutes at about 5% methanol.

reactant | (S)-3-(3,4-diaminophenyl)-4-phenyloxazolidin-2-one | NC=1C=C(C=CC1N)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C15H15N3O2
reactant | formic acid | 0.25 mL | C(=O)O | CH2O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 5N, 2.5 mL | Cl | ClH
product | (S)-3-(1H-benzo[d]imidazol-6-yl)-4-phenyloxazolidin-2-one | N1C=NC2=C1C=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C16H13N3O2
